US05146004
A one liter Parr autoclave was charged with 2-ethylhexanal (334 g, 406 mL, 2.6 mole), 44% aqueous formaldehyde (136.4 g, 122 mL, 2.0 mole) and varying amounts of triethylamine to determine the effect of increasing triethylamine concentration on reaction rate. After purging with nitrogen, the autoclave was sealed and heated at 100° C. for one hour. The autoclave was cooled and the contents were analyzed for formaldehyde (HCHO) by calorimetric analysis and for 2-ethyl2-(hydroxymethyl)hexanal (EHMH) by gas chromatography analysis. The yield of EHMH was calculated based on the 2-ethylhexanal consumed which was determined after correcting the gas chromatograph area for methanol and excess 2-ethylhexanal. Table I sets forth the amount of triethylamine (TEA, g/mL), the concentration by weight of triethylamine based on the total weight of the materials charged (TEA, %), the mole percent of formaldehyde converted (HCHO Conv.) and the percent yield of EHMH obtained.

reactant | 2-ethylhexanal | 2.6 mole, 406 mL, 334 g | C(C)C(C=O)CCCC | C8H16O
reactant | formaldehyde | 2.0 mole, 122 mL, 136.4 g | C=O | CH2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | EHMH | C(C)C(C=O)(CCCC)CO | C9H18O2
